.SUBCKT AND4X0P5H7R A B C D VDD VSS Y
*.PININFO A:I B:I C:I D:I Y:O VDD:B VSS:B
MNM0 net35 D net45 VSS nm1p2_svt_lp W=150n L=60n m=1
MNM1 net45 C net42 VSS nm1p2_svt_lp W=150n L=60n m=1
MNM2 net42 B net39 VSS nm1p2_svt_lp W=150n L=60n m=1
MNM3 net39 A VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MPM0 net35 A VDD VDD pm1p2_svt_lp W=150n L=60n m=1
MPM1 net35 B VDD VDD pm1p2_svt_lp W=150n L=60n m=1
MPM2 net35 C VDD VDD pm1p2_svt_lp W=150n L=60n m=1
MPM3 net35 D VDD VDD pm1p2_svt_lp W=150n L=60n m=1
XI0 net35 VDD VSS Y / INV pl=6e-08 pw=1.9e-07 nl=6e-08 nw=1.5e-07
.ENDS
