.SUBCKT AO211X2H7R A0 A1 B0 C0 VDD VSS Y
*.PININFO A0:I A1:I B0:I C0:I Y:O VDD:B VSS:B
MMNM3 net1 B0 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMNM2 net1 C0 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMNM1 net7 A0 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMNM0 net1 A1 net7 VSS nm1p2_svt_lp W=150n L=60n m=1
MMPM3 net1 C0 net8 VDD pm1p2_svt_lp W=190n L=60n m=1
MMPM2 net8 B0 net9 VDD pm1p2_svt_lp W=190n L=60n m=1
MMPM1 net9 A1 VDD VDD pm1p2_svt_lp W=190n L=60n m=1
MMPM0 net9 A0 VDD VDD pm1p2_svt_lp W=190n L=60n m=1
XXI1 net1 VDD VSS Y / INV pl=60n pw=380n nl=60n nw=300n
.ENDS
