.SUBCKT AO21X1H7R A0 A1 B0 VDD VSS Y
*.PININFO A0:I A1:I B0:I Y:O VDD:B VSS:B
MMNM2 net9 B0 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMNM1 net24 A0 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMNM0 net9 A1 net24 VSS nm1p2_svt_lp W=150n L=60n m=1
MMPM2 net9 B0 net19 VDD pm1p2_svt_lp W=190n L=60n m=1
MMPM1 net19 A1 VDD VDD pm1p2_svt_lp W=190n L=60n m=1
MMPM0 net19 A0 VDD VDD pm1p2_svt_lp W=190n L=60n m=1
XXI1 net9 VDD VSS Y / INV pl=60n pw=270n nl=60n nw=210n
.ENDS
